US07745438B2
(2R,3S,5R)-5-[(1S,2S)-2-Amino-3-(2-ethylphenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester
Dissolve the mixture of diastereomers from the previous reaction containing (2R,3S,5R)-2-(2,2-dimethylpropoxy)-5-[(1R,2S)-3-(2-ethylphenyl)-1-hydroxy-2-nitropropyl]-3-methylmorpholine-4-carboxylic acid tert-butyl ester in dry methanol (12 mL) and add nickel (II) chloride (267 mg, 2.06 mmol). To the resulting suspension, add sodium borohydride (284 mg, 7.5 mmol) portion-wise over 1 minute. After 30 minutes, quench with water and reduce the volume on the rotary evaporator. Add more water and saturated aqueous sodium chloride. Extract with ethyl acetate. Combine the extracts, dry (sodium sulfate), filter and concentrate to give a diastereomeric mixture of amines containing the desired compound as a light brown oil (418 mg, 85%).

reactant | (2R,3S,5R)-2-(2,2-dimethylpropoxy)-5-[(1R,2S)-3-(2-ethylphenyl)-1-hydroxy-2-nitropropyl]-3-methylmorpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=C(C=CC=C1)CC)[N+](=O)[O-])O)OCC(C)(C)C)C | C26H42N2O7
reactant | sodium borohydride | 7.5 mmol, 284 mg | [BH4-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
catalyst | nickel (II) chloride | 2.06 mmol, 267 mg | [Ni](Cl)Cl
product | (2R,3S,5R)-5-[(1S,2S)-2-Amino-3-(2-ethylphenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 418 mg, 85% | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=C(C=CC=C1)CC)N)O)OCC(C)(C)C)C | C26H44N2O5
